US05514643
Synthesis of 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl) -amide (2)
1.2g of 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid was converted into 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid chloride using 1.3g of phosphorus pentachloride according to the same procedure as EXAMPLE 1. Then 1.1g of amino-thiophen-2-yl-acetonitrile hydrochloride and 2.5ml of triethylamine were added thereto and the reaction mixture was treated according to the same procedure as EXAMPLE 1 to obtain 0.65g (Yield 36%) of the title compound.

reactant | 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid | 1.2g | CN(C=1SC(=C(N1)C)C(=O)O)C | C7H10N2O2S
reactant | 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid chloride | 1.3g | CN(C=1SC(=C(N1)C)C(=O)Cl)C | C7H9ClN2OS
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | amino-thiophen-2-yl-acetonitrile hydrochloride | 1.1g | Cl.NC(C#N)C=1SC=CC1
solvent | triethylamine | 2.5ml | C(C)N(CC)CC | C6H15N
product | 2-dimethylamino-4-methyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl) -amide | 0.65g, Yield 36% | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)N(C)C)C | C13H14N4OS2
